US07727988B2
3-Benzoyl-1-(3-chloro-propyl)-5-iodo-1H-pyrimidine-2,4-dione (Prep41)
3-Benzoyl-5-iodo-1H-pyrimidine-2,4-dione (Prep36, 3 g, 8.77 mmol) and K2CO3 (1.2 g, 8.77 mmol) were suspended in dry DMF (45 mL) and stirred at room temperature for 1 h. Then, bromo-chloro-propane (2.7 mL, 17.5 mmol) was added dropwise and the mixture stirred at room temperature overnight. Water was added and the mixture was extracted with ethyl acetate. The organic phase was dried (Na2SO4), filtered and evaporated to give the title compound as a pale yellow oil (3.6 g, 98% yield).

reactant | 3-Benzoyl-5-iodo-1H-pyrimidine-2,4-dione | 8.77 mmol, 3 g | C(C1=CC=CC=C1)(=O)N1C(NC=C(C1=O)I)=O | C11H7IN2O3
reactant | K2CO3 | 8.77 mmol, 1.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromo-chloro-propane | 17.5 mmol, 2.7 mL | BrC(CC)Cl | C3H6BrCl
reactant | Water | O | H2O
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
product | 3-Benzoyl-1-(3-chloro-propyl)-5-iodo-1H-pyrimidine-2,4-dione | 3.6 g, 98% yield | C(C1=CC=CC=C1)(=O)N1C(N(C=C(C1=O)I)CCCCl)=O | C14H12ClIN2O3
